US04211783
Preparation of 4-[10-(2-thienyl)deca-9-enylamino]benzophenone
p-Aminoacetophenone is heated with 5 g. 10-(2-thien-yl)-1-methanesulfonyloxy-9-decene (prepared by the method of Example 9) in 50 ml. hexamethylphosphoramide containing anhydrous potassium carbonate (1.9 g.) for 16 hours a 100° C. The solution is cooled to room temperature, filtered to remove solids, and the filtrate is diluted with cold water (50 ml.). The amber solid so obtained is collected and washed with water. Recrystallization from ethanol followed by dichloromethane provides the title compound.

reactant | p-Aminoacetophenone | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | 10-(2-thien-yl)-1-methanesulfonyloxy-9-decene | S1C(=CC=C1)C=CCCCCCCCCOS(=O)(=O)C | C15H24O3S2
solvent | hexamethylphosphoramide | 1.9 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-[10-(2-thienyl)deca-9-enylamino]benzophenone | S1C(=CC=C1)C=CCCCCCCCCNC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C27H31NOS
